US03983124
To a solution of 61.0 g (0.2 mole) of 9-oxofluorene-2,7-dicarbonyl chloride dissolved in 600 ml of chloroform(hydrocarbon stabilized and stored over molecular sieves) is added 58.4 g (0.8 mole) of diethylamine in small increments. The solution is refluxed with stirring for an additional 4 hours, cooled, washed 3 times with water, dried over anhydrous sodium sulfate, filtered, and the volatile materials removed on a steam bath under vacuum. The resulting oil so obtained is triturated with pentane to effect solidification. The residue when recrystallized three times from ethyl acetate yields N,N,N',N'-tetraethyl-9-oxofluorene-2,7-dicarboxamide, m.p. of 142°-3°C, λmaxMeOH 265, and E 1cm1% 2011.

reactant | 9-oxofluorene-2,7-dicarbonyl chloride | 0.2 mole, 61.0 g | O=C1C2=CC(=CC=C2C=2C=CC(=CC12)C(=O)Cl)C(=O)Cl | C15H6Cl2O3
reactant | diethylamine | 0.8 mole, 58.4 g | C(C)NCC | C4H11N
solvent | chloroform | 600 ml | C(Cl)(Cl)Cl | CHCl3
product | N,N,N',N'-tetraethyl-9-oxofluorene-2,7-dicarboxamide | C(C)N(C(=O)C1=CC=2C(C3=CC(=CC=C3C2C=C1)C(=O)N(CC)CC)=O)CC | C23H26N2O3
